US05919807
a) 4-Chloro-N-(2-chloro-5-methoxy-phenyl)-phenylacetamide
5.8 g (30 mmol) of 2-chloro-5-methoxyaniline-hydrochloride are dissolved with 7.08 g (70 mmol) of triethylamine in 100 ml methylene chloride and whilst cooling with ice 5.86 g (31 mmol) of 4-chlorophenylacetyl chloride are added dropwise. After 2 hours' stirring the mixture is added to water and extracted with methylene chloride. The extracts are dried and evaporated down. The evaporation residue is recrystallised from ether/petroleum ether. Melting point: 149-151° C.

reactant | 2-chloro-5-methoxyaniline-hydrochloride | 30 mmol, 5.8 g | Cl.ClC1=C(N)C=C(C=C1)OC
reactant | triethylamine | 70 mmol, 7.08 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-(2-chloro-5-methoxy-phenyl)-phenylacetamide | ClC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)OC)Cl | C15H13Cl2NO2
